US06573274B1
To a solution of 4-acetoxy-2-chlorotoluene (13.4 g) in carbon tetrachloride (134 ml) were added N-bromosuccinimide (12.9 g) and 2,2′-azobis(4-methoxy-2,4-dimethylvaleronitrile) (1.12 g), and the mixture was refluxed under heating for 2.5 hr. The reaction mixture was concentrated to dryness under reduced pressure. To the residue was added hexane (270 ml) and the mixture was stirred at room temperature for 10 min. The insoluble matter was filtered off and washed with hexane. The filtrate and washing were combined and washed 3 times with saturated aqueous sodium hydrogen carbonate solution and once with saturated brine. The organic layer was dried over magnesium sulfate and concentrated to dryness under reduced pressure. The residue was crystallized from hexane to give 4-acetoxy-2-chlorobenzylbromide as colorless crystals (11.3 g).

reactant | 4-acetoxy-2-chlorotoluene | 13.4 g | C(C)(=O)OC1=CC(=C(C=C1)C)Cl | C9H9ClO2
reactant | N-bromosuccinimide | 12.9 g | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | carbon tetrachloride | 134 ml | C(Cl)(Cl)(Cl)Cl | CCl4
catalyst | 2,2′-azobis(4-methoxy-2,4-dimethylvaleronitrile) | 1.12 g | N(=NC(C#N)(CC(C)(OC)C)C)C(C#N)(CC(C)(C)OC)C | C16H28N4O2
product | 4-acetoxy-2-chlorobenzylbromide | 11.3 g | C(C)(=O)OC1=CC(=C(CBr)C=C1)Cl | C9H8BrClO2
